US04919708
To a stirred mixture of 8.0 g (0.042 mole) of 4-chloro-2-fluoro-5-methoxyphenylhydrazine and 8.4 g (0.05 mole) of ethyl difluoroacetylcarbamate in 120 mL of xylene was added 2.1 g of phosphorus pentoxide. After complete addition the mixture was heated at reflux for one hour. While still hot, the reaction mixture was decanted from a dark residue into a clean flask. This residue was washed with xylene and the wash was combined with the decanted reaction mixture. The resultant mixture was stirred at room temperature for one hour. A precipitate formed and was removed by filtration and saved for later purification. The filtrate was extracted with three 150 mL portions of an aqueous 10% sodium hydroxide solution. The basic washes were combined and extracted with xylene. During the extraction an oil formed a third phase in the bottom of the separatory funnel and was removed from the other two phases. The basic aqueous phase was separated from the organic phase and filtered through a celite pad. The filtrate was washed with two portions of diethyl ether and acidified with concentrated hydrochloric acid. The acidified aqueous mixture was stirred at room temperature forming a brown precipitate. Collection of the precipitate by filtration yielded 1.5 g of 1-(4-chloro-2-fluoro-5-methoxyphenyl)-3-difluoromethyl-4,5-dihydro-1,2,4-triazol-5(1H)-one. The precipitate which was previously saved for purification was stirred in 70 mL of an aqueous 10% sodium hydroxide solution. The basic mixture was filtered through a celite pad to remove insoluble materials. The filtrate was acidified with concentrated hydrochloric acid producing a white solid. This solid was collected by filtration to yield an additional 0.7 g of product (mp 188°-190° C.).

reactant | 4-chloro-2-fluoro-5-methoxyphenylhydrazine | 0.042 mole, 8.0 g | ClC1=CC(=C(C=C1OC)NN)F | C7H8ClFN2O
reactant | ethyl difluoroacetylcarbamate | 0.05 mole, 8.4 g | FC(C(=O)NC(OCC)=O)F | C5H7F2NO3
reactant | phosphorus pentoxide | 2.1 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | xylene | 120 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(4-chloro-2-fluoro-5-methoxyphenyl)-3-difluoromethyl-4,5-dihydro-1,2,4-triazol-5(1H)-one | 1.5 g | ClC1=CC(=C(C=C1OC)N1N=C(NC1=O)C(F)F)F | C10H7ClF3N3O2
